US07425634B2
(81a) 3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-ol
To the suspension of lithium aluminum hydride (748 mg, 19.7 mmol) in tetrahydrofuran (40 ml), a tetrahydrofuran solution of 1,4-cyclohexanedione mono-2,2-dimethyltrimethylene ketal (3.9 g, 19.7 mmol) was added at 0° C. The mixture was stirred at room temperature for 3 hours. After water (0.7 ml), a 5N aqueous sodium hydroxide solution (0.7 ml), and water (2.1 ml) were sequentially added at 0° C. to the mixture, the mixture was dried over sodium sulfate, filtrated, concentrated under reduced pressure, and purified by silica gel column chromatography (elution solvent: ethyl acetate/heptane=1/2, 1/1, 2/1) to obtain the title compound (3.6 g, yield: 91.2%) as a colorless oil.

reactant | lithium aluminum hydride | 19.7 mmol, 748 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,4-cyclohexanedione mono-2,2-dimethyltrimethylene ketal | 19.7 mmol, 3.9 g | CC1(COC2(CCC(=O)CC2)OC1)C | C11H18O3
reactant | water | 0.7 ml | O | H2O
reactant | sodium hydroxide | 5N, 0.7 ml | [OH-].[Na+]
reactant | water | 2.1 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-ol | 3.6 g, yield: 91.2% | CC1(COC2(OC1)CCC(CC2)O)C | C11H20O3
